US08003663B2
4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide
2-(Methylamino)ethanol (9.5 g, 7 equivalents) is added to a stirred mixture of 4-[(8-bromooctanoyl)amino]benzamide (5.76 g, 16.9 mmol, e.g. which can be as prepared in Intermediate 53 (first or alternative preparation thereof)) and dimethyl sulfoxide (30 mL). The mixture is stirred at 25° C. until the reaction is substantially complete and is then diluted with acetonitrile (115 mL). After stirring for 1 hour the mixture is filtered, washed with ethyl acetate (15 mL) and tert-butyl methyl ether (TBME, 15 mL) before being dried in vacuo to yield the title compound, generally as a solid.

reactant | 2-(Methylamino)ethanol | 9.5 g, 7 equivalents | CNCCO | C3H9NO
reactant | 4-[(8-bromooctanoyl)amino]benzamide | BrCCCCCCCC(=O)NC1=CC=C(C(=O)N)C=C1 | C15H21BrN2O2
reactant | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | acetonitrile | 115 mL | C(C)#N | C2H3N
product | 4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide | OCCN(CCCCCCCC(=O)NC1=CC=C(C(=O)N)C=C1)C | C18H29N3O3
